US08048335B2
20 mL of thionyl chloride was added dropwise to a mixture containing 20.0 g (0.1 mol) of trans-4-pentylcyclohexanecarboxylic acid represented by the following formula (b-i), 0.5 mL of pyridine and 300 mL of toluene in a nitrogen atmosphere, and the mixture was stirred under heating to 80° C. or less for 1 hour. The solvent was distilled off under reduced pressure to provide trans-4-pentylcyclohexanecarboxylic acid chloride.

reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | trans-4-pentylcyclohexanecarboxylic acid | 0.1 mol, 20.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | trans-4-pentylcyclohexanecarboxylic acid chloride | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)Cl | C12H21ClO
